US09303000B2
In a 50 ml capacity 3-neck round-bottomed flask attached with nitrogen bubbler, & magnetic stirrer 2-isopropoxy-4-(1H-1,2,4-triazol-3-yl)-6-(trifluoromethyl)pyridine (1 g), dissolved in 10 ml DMF at RT. Ethyl iodo acrylate (1.310 g) in DMF (1 ml) dropwise added in the reaction mixture. Then NaOH (0.291 g) added and stirred the reaction mixture for 12 h at 0° C. Completion of the reaction confirmed on TLC in 30% ethyl acetate/hexane mobile phase. Reaction gives two isomeric compounds (cis/trans). The reaction mixture was poured in ice water solution & extract with ethylacetate (3×50 mL). Organic layer dried over Na2SO4 & concentrate to give crude product (1.1 g). The crude reaction mixture was purified by column chromatography using silica 60/120 using ethyl acetate:hexane as mobile phase. The column was packed in hexane and started eluting in ethyl acetate in gradient manner starting with fraction collection (25-mL fractions) from 1% to 5% ethyl acetate in hexane. Compound started eluting with 5% ethyl acetate in hexane. Fractions containing such TLC profile was collected together to obtain pure (Z)-isopropyl 3-(3-(2-isopropoxy-6-(trifluoromethyl)pyridin-4-yl)-1H-1,2,4-triazol-1-yl)acrylate (500 mg).

reactant | 2-isopropoxy-4-(1H-1,2,4-triazol-3-yl)-6-(trifluoromethyl)pyridine | 1 g | C(C)(C)OC1=NC(=CC(=C1)C1=NNC=N1)C(F)(F)F | C11H11F3N4O
reactant | NaOH | 0.291 g | [OH-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (Z)-isopropyl 3-(3-(2-isopropoxy-6-(trifluoromethyl)pyridin-4-yl)-1H-1,2,4-triazol-1-yl)acrylate | 500 mg | C(C)(C)OC1=NC(=CC(=C1)C1=NN(C=N1)\C=C/C(=O)OC(C)C)C(F)(F)F | C17H19F3N4O3
